US07737279B2
A461.1: (Z)-1-(6-Bromopyridin-2-yl)ethanone oxime
A mixture of 2-acetyl-6-bromopyridine (10.0 g, 0.050 mol) and hydroxylamine hydrochloride (6.90 g, 0.10 mol) in pyridine (50 mL) was stirred at room temperature overnight. The solvent was removed under reduced pressure, and the residue was diluted with ethyl acetate (200 mL), washed with water (100 mL), and dried over anhydrous sodium sulfate. Concentration under reduced pressure afforded a 10.75 g of A461.1 as an off-white solid.

reactant | 2-acetyl-6-bromopyridine | 0.050 mol, 10.0 g | C(C)(=O)C1=NC(=CC=C1)Br | C7H6BrNO
reactant | hydroxylamine hydrochloride | 0.10 mol, 6.90 g | Cl.NO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (Z)-1-(6-Bromopyridin-2-yl)ethanone oxime | BrC1=CC=CC(=N1)\C(\C)=N/O | C7H7BrN2O
